US04171318
2E,4E-2-fluoro-3-methyl-5-(2,4,5-trimethyl-3-thienyl)-2,4-pentadien-1-al
The solution of 2E,4E-2-fluoro-3-methyl-5-(2,4,5-trimethyl-3-thienyl)-2,4-pentadien-1-ol in ether and methylene chloride was added to a rapidly stirred suspension of 40 g. of activated manganese dioxide in methylene chloride. After 14 hours of stirring at 25° C., thin layer chromatography indicated that no starting alcohol remained. The manganese dioxide was removed by filtration through Celite. The filtrate containing 2E,4E-2-fluoro-3-methyl-5-(2,4,5-trimethyl-3-thienyl)-2,4-pentadien-1-al was concentrated and used in the next step without further purification.

reactant | 2E,4E-2-fluoro-3-methyl-5-(2,4,5-trimethyl-3-thienyl)-2,4-pentadien-1-ol | F\C(\CO)=C(\C=C\C1=C(SC(=C1C)C)C)/C | C13H17FOS
solvent | ether | CCOCC | C4H10O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
product | 2E,4E-2-fluoro-3-methyl-5-(2,4,5-trimethyl-3-thienyl)-2,4-pentadien-1-al | F\C(\C=O)=C(\C=C\C1=C(SC(=C1C)C)C)/C | C13H15FOS
